US07179934B2
(3R,4R,5R)-3-Amino-4,5-dimethyl-octanoic acid
(3R,4R,5R)-3-Amino-4,5-dimethyl-octanoic acid hydrochloride (92 g, 0.41 mol) was dissolved in 250 mL to 260 mL of dry MeOH in a 2 L 3-necked round bottom flask. To this solution was added Et3N (0.45 mol, 45.8 g) dropwise, which formed a white precipitate. The resulting slurry was stirred at room temperature for 15 minutes. The solvent was removed to dryness. The white solid was dispersed in 1 L of CH2Cl2 (1 L) and stirred for 1 hour. CH3CN (0.6 L) was added, and the slurry was stirred for another 0.5 hours. The slurry was filtered and the solids were washed 2× with 50 mL aliquots of CH3CN, giving 71 g of the titled compound as a white solid (92% yield; 98.8% chiral purity; 99.7% chemical purity): 1H NMR (400 MHz, CD3OD): 0.89 (t, J=7.2 Hz, 3 H), 0.91 (d, J=5.1 Hz, 3 H), 0.93 (d, J=6.6 Hz, 3 H), 1.02–1.65 (m, 4 H), 2.26 (dd, J=10.2 Hz, 1 H), 2.50 (dd, J=3.7 Hz, 1 H), 3.27 (m, J=1.6 Hz, 2 H) 3.33–3.28 (m, 1 H), 4.82 (s, 3 H).

reactant | (3R,4R,5R)-3-Amino-4,5-dimethyl-octanoic acid hydrochloride | 0.41 mol, 92 g | Cl.N[C@H](CC(=O)O)[C@@H]([C@@H](CCC)C)C
reactant | Et3N | 0.45 mol, 45.8 g | CCN(CC)CC | C6H15N
solvent | MeOH | 250 mL to 260 mL | CO | CH4O
product | (3R,4R,5R)-3-Amino-4,5-dimethyl-octanoic acid | 71 g, 92% yield | N[C@H](CC(=O)O)[C@@H]([C@@H](CCC)C)C | C10H21NO2
